US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-aminopyridin-2-yl)phenyl)guanidine (150 mg) in dichloromethane (1.5 ml) was added 4N hydrogen chloride in 1,4-dioxane (3 ml), and the mixture was stirred at room temperature for 26 hours. The solvent was evaporated under reduced pressure. To the residue was added 5% ethanol in ethyl acetate (100 ml), and the precipitate was collected by filtration and dried under reduced pressure to give 3-(3-aminopyridin-2-yl)phenylguanidine dihydrochloride (92 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-aminopyridin-2-yl)phenyl)guanidine | 150 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC=C1N)NC(=O)OC(C)(C)C | C22H29N5O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 3-(3-aminopyridin-2-yl)phenylguanidine dihydrochloride | 92 mg | Cl.Cl.NC=1C(=NC=CC1)C=1C=C(C=CC1)NC(=N)N | InChI=1S/C12H13N5.2ClH/c13-10-5-2-6-16-11(10)8-3-1-4-9(7-8)17-12(14)15;;/h1-7H,13H2,(H4,14,15,17);2*1H
